US07923450B2
d) {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-pyrrolidin-1-yl-methanone
The title compound was prepared from 2-[1-dimethylamino-methylidene]-6-(pyrrolidine-1-carbonyl)-cyclohexanone (58 mg, 0.23 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (64 mg, 0.17 mmol) using in analogous manner the procedure described in example 45b). Obtained as a yellow solid (55 mg, 73%). MS ISP (m/e): 433.3 (100) [(M+H)+]. mp 94-95° C.

reactant | 2-[1-dimethylamino-methylidene]-6-(pyrrolidine-1-carbonyl)-cyclohexanone | 0.23 mmol, 58 mg | CN(C=C1C(C(CCC1)C(=O)N1CCCC1)=O)C | C14H22N2O2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.17 mmol, 64 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-yl}-pyrrolidin-1-yl-methanone | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C(=O)N1CCCC1 | C24H28N6O2
